US08895544B2
2-{6-[5-Fluoro-4-methoxy-2-(2,2,2-trifluoro-ethyl)-phenyl]-1H-indazol-3-yl}-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridine trihydrochloride salt
To a solution of 6-[5-fluoro-4-methoxy-2-(2,2,2-trifluoro-ethyl)-phenyl]-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboximidic acid methyl ester (Preparation 37, 1.64 g, 3.78 mmol) in ethanol (5 mL) was added a solution of 3-amino-4,4-diethoxy-piperidine-1-carboxylic acid tert-butyl ester (US-2004/0229862, 1.15 g, 3.97 mmol) in ethanol (7.5 mL). Acetic acid (430 μL, 7.56 mmol) was added and the reaction mixture was heated at 50° C. for 18 hours and then concentrated in vacuo to give a brown oil. The oil was dissolved in ethanol (15 mL) and the resulting solution was treated with concentrated hydrochloric acid (12M, 4.75 mL, 56.7 mmol) and then heated at 80° C. for 18 hours. The solvent was removed in vacuo to yield the title compound (2.03 g) in a 97% yield.

reactant | 6-[5-fluoro-4-methoxy-2-(2,2,2-trifluoro-ethyl)-phenyl]-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboximidic acid methyl ester | 3.78 mmol, 1.64 g | COC(=N)C1=NN(C2=CC(=CC=C12)C1=C(C=C(C(=C1)F)OC)CC(F)(F)F)C1OCCCC1 | C23H23F4N3O3
reactant | 3-amino-4,4-diethoxy-piperidine-1-carboxylic acid tert-butyl ester | 3.97 mmol, 1.15 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)(OCC)OCC)N | C14H28N2O4
reactant | Acetic acid | 7.56 mmol, 430 μL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 56.7 mmol, 12M, 4.75 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 7.5 mL | C(C)O | C2H6O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-{6-[5-Fluoro-4-methoxy-2-(2,2,2-trifluoro-ethyl)-phenyl]-1H-indazol-3-yl}-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridine trihydrochloride salt | 2.03 g, 97% yield | Cl.Cl.Cl.FC=1C(=CC(=C(C1)C1=CC=C2C(=NNC2=C1)C1=NC2=C(CNCC2)N1)CC(F)(F)F)OC | InChI=1S/C22H19F4N5O.3ClH/c1-32-19-7-12(9-22(24,25)26)14(8-15(19)23)11-2-3-13-17(6-11)30-31-20(13)21-28-16-4-5-27-10-18(16)29-21;;;/h2-3,6-8,27H,4-5,9-10H2,1H3,(H,28,29)(H,30,31);3*1H
